US03954757
A solution of 6.35 g of iodine and 11 g of potassium iodide in 50 ml of water is added dropwise to a mixture of 4.9 g of 5-bromoindole in 35 ml methanol and 3.25 g of 4,5,6,7-tetrahydro-1H-1,3-diazepine-2-thione in 50 ml of methanol. The reaction mixture is allowed to be stirred at room temperature for 2 hours. The crystalline precipitate formed is filtered off and recrystallized from a mixture of methanol and ethyl acetate to yield 5-bromo-3-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylthio)indole hydriodide which melts at 243°-246° (with decomposition).

reactant | iodine | 6.35 g | II | I2
reactant | potassium iodide | 11 g | [I-].[K+]
reactant | 5-bromoindole | 4.9 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4,5,6,7-tetrahydro-1H-1,3-diazepine-2-thione | 3.25 g | N1C(NCCCC1)=S | C5H10N2S
solvent | water | 50 ml | O | H2O
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5-bromo-3-(4,5,6,7-tetrahydro-1H-1,3-diazepin-2-ylthio)indole hydriodide | I.BrC=1C=C2C(=CNC2=CC1)SC=1NCCCCN1 | InChI=1S/C13H14BrN3S.HI/c14-9-3-4-11-10(7-9)12(8-17-11)18-13-15-5-1-2-6-16-13;/h3-4,7-8,17H,1-2,5-6H2,(H,15,16);1H
